US05173493
To a solution of diisopropylamine (263 mg) in tetrahydrofuran (3 ml) at -70° C. under a nitrogen atmosphere was added 1.64M butyllithium in hexane (1.75 ml). After being stirred at the same temperature for 20 minutes, the mixture was treated with a solution of 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.07 g) in tetrahydrofuran (5 ml) over 15 minutes. The mixture was stirred at -65° C. for 30 minutes and at -25° C. for 40 minutes and a solution of methyl iodide (282 mg) in tetrahydrofuran (3 ml) was added dropwise at -65° C. over 10 minutes. After the mixture was stirred at -65° C. for 30 minutes and at -20° C. for 1 hour, it was diluted with water and neutralized with an aqueous solution of oxalic acid. The resultant mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification of the residue with silica gel column chromatography (5% ethyl acetate-chloroform) gave 8,9-dihydro-7,10-dimethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (0.73 g).

reactant | diisopropylamine | 263 mg | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.64M | C(CCC)[Li]
reactant | 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.07 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H33N3O
reactant | methyl iodide | 282 mg | CI | CH3I
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.75 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8,9-dihydro-7,10-dimethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 0.73 g | CC1(CCC=2N(C3=CC=CC=C3C2C)C1=O)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H35N3O
